US07319152B2
A solution of 5-hydroxy-3,3-dimethylindan-1-one in anhydrous pyridine at 0° C. was treated with triflic anhydride under an atmosphere of nitrogen. After completion of reaction indicated by thin layer chromatography, the reaction solution was poured onto a mixture of ice and 6N aqueous HCl solution and extracted with diethyl ether. The organic layers were combined, washed with saturated aqueous sodium bicarbonate solution, dried (MgSO4), and concentrated to afford trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester that was used in the next step without further purification.

reactant | 5-hydroxy-3,3-dimethylindan-1-one | OC=1C=C2C(CC(C2=CC1)=O)(C)C | C11H12O2
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | HCl | 6N | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
